US05474994
Ethyl 2-(4-cyanophenyl)-3-methyl-4-oxo-4H-1-benzopyran-8-carboxylate Intermediate CXIX
A solution of 5.2 g of ethyl 2-hydroxy-3-propionylbenzoate in 30 ml of anhydrous pyridine was added dropwise over 20 minutes at room temperature into a stirred mixture of 4 g of 4-cyanobenzoyl chloride in 30 ml of anhydrous pyridine. The solution was stirred for 1 hour at the same temperature, then 2.6 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene was added and the solution was heated at 100° C. for 2 hours. After cooling to room temperature, the solvent was evaporated in vacuo and the residue was quenched with 100 ml of water containing 40 ml of 6N aqueous hydrochloric acid solution. The mixture was extracted twice with 100 ml aliquots of dichloromethane, the organic layer was separated, washed with water, dried over sodium sulfate and evaporated in vacuo. The residue was purified by flash chromatography on silica gel eluting with n-hexane-ethyl acetate gradient (95:5 to 60:40), obtaining 3 g of the title compound after crystallization from ethanol, m.p. 181°-183° C.

reactant | ethyl 2-hydroxy-3-propionylbenzoate | 5.2 g | OC1=C(C(=O)OCC)C=CC=C1C(CC)=O | C12H14O4
reactant | 4-cyanobenzoyl chloride | 4 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.6 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-(4-cyanophenyl)-3-methyl-4-oxo-4H-1-benzopyran-8-carboxylate | 3 g | C(#N)C1=CC=C(C=C1)C=1OC2=C(C(C1C)=O)C=CC=C2C(=O)OCC | C20H15NO4
